US04624953
To a solution of 4.3 g (0.03 mole) 1-carbomethoxypiperazine in 10 ml of ethanol was added 10.0 g (0.036 mole) of 4-chloro-1,1-bis-(p-fluorophenyl)-butane and 5.0 g of sodium bicarbonate. The mixture was heated at reflux for 36 hours. 100 ml of water was added. The mixture was extracted twice with Et2O. The combined extracts were dried over sodium sulphate and concentrated. The residue was dissolved in ethanol-ether and the hydrochloride was precipitated with ethanolic HCl. The solid was collected by filtration and recrystallised from propan-2-ol to give 2.2 g of 1-carbomethoxy-4-[4,4-bis(p-fluorophenyl)butyl]-piperazine hydrochloride. Melting point 192°-193° C.

reactant | 1-carbomethoxypiperazine | 0.03 mole, 4.3 g | C(=O)(OC)N1CCNCC1 | C6H12N2O2
reactant | 4-chloro-1,1-bis-(p-fluorophenyl)-butane | 0.036 mole, 10.0 g | ClCCCC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C16H15ClF2
reactant | sodium bicarbonate | 5.0 g | C([O-])(O)=O.[Na+]
reactant | water | 100 ml | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1-carbomethoxy-4-[4,4-bis(p-fluorophenyl)butyl]-piperazine hydrochloride | 2.2 g | Cl.C(=O)(OC)N1CCN(CC1)CCCC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | InChI=1S/C22H26F2N2O2.ClH/c1-28-22(27)26-15-13-25(14-16-26)12-2-3-21(17-4-8-19(23)9-5-17)18-6-10-20(24)11-7-18;/h4-11,21H,2-3,12-16H2,1H3;1H
